US04457931
(a) 2-bromopropionic acid morpholide
This compound is prepared by reaction of 2-bromopropionylchloride with morpholine under the experimental conditions of Example 10: b.p. 115°-120° C. (0.1-0.2 mm); Rf=0.52 (C6H6 -MeOH 80:20); IR (neat) νmax: 2860, 1660, 1470, 1440, 1280, 1260, 1125, 1040 cm-1. The product is very irritating to the skin and mucosae.

reactant | 2-bromopropionylchloride | BrC(C(=O)Cl)C | C3H4BrClO
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | C6H6 MeOH | C1=CC=CC=C1.CO
product | 2-bromopropionic acid morpholide | BrC(C(=O)N1CCOCC1)C | C7H12BrNO2
